Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[C:1]1([H:7])([H:8])[C:2]([H:9])([H:10])[C:3]1([N:4]1[C:5]([H:12])([H:13])[C:6]1([H:14])[H:15])[H:11]>>[C:1]1([H:7])([H:8])[C:2]([H:9])([H:10])[N+:4]2([C:3]1([H:11])[H:15])[C:5]([H:12])([H:13])[C-:6]2[H:14],87.7708038137474
[O:1]([C:2]([C:3]([C:4]([O:5][H:12])=[C:6]([H:13])[H:14])([H:10])[H:11])=[C:7]([H:9])[H:15])[H:8]>>[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C@@:4]2([O:5][H:12])[C:6]([H:13])([H:14])[C@@:7]12[H:15])[H:8],102.98293829238429
[C:1]([C:2]([C@@:3]([C:4]([H:14])([H:15])[H:16])([C:5]([C:6]([H:18])([H:19])[H:20])([C:7]([H:21])([H:22])[H:23])[H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1](=[C:2]([C@@:3]([C:4]([H:14])([H:15])[H:16])([C:5]([C:6]([H:18])([H:19])[H:20])([C:7]([H:21])([H:22])[H:23])[H:17])[H:13])[H:11])([H:8])[H:10].[H:9][H:12],110.39309195841801
[C:1]([C:2](=[O:3])[C:4]#[C:5][H:9])([H:6])([H:7])[H:8]>>[C:1](=[C:2]=[O:3])([H:7])[H:8].[C:4](#[C:5][H:9])[H:6],66.99529224678079
[C-:4]#[O+:5].[N:1]#[C:2][C:3](=[N+:7]=[N-:6])[H:8]>>[N:1]#[C:2][C:3](=[C:4]([O-:5])[H:8])[N+:7]#[N:6],54.909502715622004
[C:1](=[C:2]([O:3][H:12])[H:11])([H:8])[H:9].[C@@:4]1([C:5]([H:14])([H:15])[H:16])([H:13])[C:6]([H:10])=[N:7]1>>[C:1]([C@@:2]([O:3][H:12])([C@@:4]([C:5]([H:14])([H:15])[H:16])([C:6]#[N:7])[H:13])[H:11])([H:8])([H:9])[H:10],27.67026829690441
[O:1]=[C:2]([c:3]1[n:4][c:5]([H:9])[n:6][o:7]1)[H:8]>>[O-:1][N:4]1[C:3](=[C+:2][H:8])[O:7][N:6]=[C:5]1[H:9],132.167787526723
[N:1]([C:2]1([C:5]#[N:6])[C:3]([H:9])([H:10])[C:4]1([H:11])[H:12])([H:7])[H:8]>>[N+:1]1([H:7])([H:8])[C-:2]([C:5]#[N:6])[C:3]([H:9])([H:10])[C:4]1([H:11])[H:12],62.1691160037025
[C:1]([C@@:2]1([H:10])[C:3]([H:11])=[C:5]1[C:6](=[O:4])[H:12])([H:7])([H:8])[H:9]>>[C:1]([C@@:2]([C:3](=[O:4])[H:11])([C:5]#[C:6][H:12])[H:10])([H:7])([H:8])[H:9],67.5342533887007
[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@:4]2([C:5]([H:14])([H:15])[O:6]2)[C:7]1([H:16])[H:17])([H:8])([H:9])[H:10]>>[C:1]([C:2](=[C:3]([H:12])[H:13])[C:7]([C@:4]1([H:11])[C:5]([H:14])([H:15])[O:6]1)([H:16])[H:17])([H:8])([H:9])[H:10],96.9488090958062
[C:1]([H:8])([H:9])([H:10])[H:11].[N:2](=[C:3](/[C:6]#[N:7])[H:12])\[C:4]([O:5][H:15])([H:13])[H:14]>>[C:1]([N:2]([C@@:3]([C:4]([O:5][H:15])([H:13])[H:14])([C:6]#[N:7])[H:12])[H:11])([H:8])([H:9])[H:10],82.6291258247028
[C:1](/[N:2]=[C:3](\[N:4]([H:11])[H:12])[H:13])([H:8])([H:9])[H:10].[C:5](=[O:6])=[N:7][H:14]>>[C:1](/[N:2]=[C:3](\[N:4]([H:11])[H:12])[C:5](=[O:6])[N:7]([H:13])[H:14])([H:8])([H:9])[H:10],71.83477060796268
[C:1]([C@@:2]([O:3][H:11])([C@@:4]([C:5]([H:13])([H:14])[H:15])([O:6][H:16])[H:12])[H:10])([H:7])([H:8])[H:9]>>[C:1]([H:7])([H:8])([H:9])[H:10].[C:2]([O:3][H:11])[C@@:4]([C:5]([H:13])([H:14])[H:15])([O:6][H:16])[H:12],70.1175860857969
[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@:4]1([C:5]([C:6]#[C:7][H:17])([H:15])[H:16])[H:14])([H:8])([H:9])[H:10]>>[C:1]([C:2]1=[C:3]([H:13])[C@:4]1([C:5]([C:6]#[C:7][H:17])([H:15])[H:16])[H:14])([H:8])([H:9])[H:10].[H:11][H:12],115.919986076276
[O:1](/[C:2](=[C:7](\[N:6]=[C:5](/[O:4][C:3]([H:10])([H:11])[H:13])[H:12])[H:14])[H:9])[H:8]>>[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[O:4][C:5]([H:12])=[N:6][C:7]1([H:13])[H:14])[H:8],84.7274273174867
[O:1]([C:2]([C@@:3]1([H:9])[C:4]([H:10])([H:11])[N:5]1[H:12])([H:7])[H:8])[H:6]>>[H:7][H:10].[O:1]([C+:2]([C@@:3]1([H:9])[C-:4]([H:11])[N:5]1[H:12])[H:8])[H:6],82.684002013301
[C:1]([C:2](=[C:3]([H:11])[H:12])[H:10])([H:7])([H:8])[H:9].[C:4](=[N:5][C:6]([H:15])([H:16])[H:17])([H:13])[H:14]>>[C:1]([C:2]([C@@:3]1([H:12])[C:4]([H:13])([H:14])[N:5]1[C:6]([H:15])([H:16])[H:17])([H:10])[H:11])([H:7])([H:8])[H:9],81.16009364815157
[n:1]1([H:6])[c:2]([H:7])[c:3]([H:8])[n:4][n:5]1>>[N:1]1([H:6])[C:2]([H:7])=[C:3]1[H:8].[N:4]#[N:5],63.958140983353395
[O:1]=[C:2]1[N:3]([H:8])[C:4]([H:9])([H:10])[C@@:5]2([H:11])[O:6][C@@:7]12[H:12]>>[O:1]=[C:2]=[C:7]1[C@:5]([C:4]([N:3]([H:8])[H:12])([H:9])[H:10])([H:11])[O:6]1,108.701602478523
[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C@:5]1([O:6][O:4][H:13])[H:14])([H:7])([H:8])[H:9]>>[C:1]([C@@:2]([C:3]([O:4][H:13])([H:11])[H:12])([C:5](=[O:6])[H:14])[H:10])([H:7])([H:8])[H:9],25.62138881210862
[N:1]#[C:2][C:3]([O:4][C:5]([C:6]#[N:7])([H:10])[H:11])([H:8])[H:9]>>[C:5](=[C:6]=[N:7][H:9])([H:10])[H:11].[N:1]#[C:2][C:3](=[O:4])[H:8],42.43237708335421
[O:1]1[C:2]([H:9])([H:10])[C:3]([H:11])([H:12])[C:4]([H:13])=[C:6]=[C:7]1[H:15].[O:5]([H:8])[H:14]>>[O:1]([C:2]([C:3]([C@@:4]([O:5][H:14])([C:6]#[C:7][H:15])[H:13])([H:11])[H:12])([H:9])[H:10])[H:8],30.92275561318189
[C:1]([C:2]([O:3]/[C:4](=[N:5]/[H:13])[C:6]#[N:7])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2](=[O:3])[H:12])([H:8])([H:9])[H:10].[C:4](=[N:5]\[H:13])(\[C:6]#[N:7])[H:11],77.14690143728521
[C:1]([C@@:2]([O:3][H:11])([C:4]([N:5]([H:14])[H:15])([H:12])[H:13])[C:6]#[N:7])([H:8])([H:9])[H:10]>>[C:1]([C:2]([O:3][H:11])=[C:4]([H:12])[H:13])([H:8])([H:9])[H:10].[N:5]([C:6]#[N:7])([H:14])[H:15],66.76255466967321
